US07763584B2
To a solution of (2S,4R)-methyl 4-(biphenyl-4-yl)-1-((S)-2-(tert-butoxycarbonylamino)non-8-enoyl)-4-methoxypyrrolidine-2-carboxylate (166 mg, 0.294 mmol) in THF (2 mL) and MeOH (2 mL) was added a pre-made solution of lithium hydroxide monohydrate (37 mg, 0.882 mmol) in water (2 mL). This cloudy solution was stirred at rt for 18 h, and then concentrated in vacuo. The residue was dissolved in water and acidified with 1N HCl to pH 2. This aqueous solution was extracted with EtOAc. The organic phase was washed with 5% citric acid and brine, dried over MgSO4, filtered, and concentrated in vacuo to give 148 mg (91%) of (2S,4R)-4-(biphenyl-4-yl)-1-((S)-2-(tert-butoxycarbonylamino)non-8-enoyl)-4-methoxypyrrolidine-2-carboxylic acid as a white solid. No further purification was undertaken.

reactant | (2S,4R)-methyl 4-(biphenyl-4-yl)-1-((S)-2-(tert-butoxycarbonylamino)non-8-enoyl)-4-methoxypyrrolidine-2-carboxylate | 0.294 mmol, 166 mg | C1(=CC=C(C=C1)[C@@]1(C[C@H](N(C1)C([C@H](CCCCCC=C)NC(=O)OC(C)(C)C)=O)C(=O)OC)OC)C1=CC=CC=C1 | C33H44N2O6
reactant | lithium hydroxide monohydrate | 0.882 mmol, 37 mg | O.[OH-].[Li+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | (2S,4R)-4-(biphenyl-4-yl)-1-((S)-2-(tert-butoxycarbonylamino)non-8-enoyl)-4-methoxypyrrolidine-2-carboxylic acid | 148 mg, 91% | C1(=CC=C(C=C1)[C@@]1(C[C@H](N(C1)C([C@H](CCCCCC=C)NC(=O)OC(C)(C)C)=O)C(=O)O)OC)C1=CC=CC=C1 | C32H42N2O6
